US05807938
Synthesis of (p-N,N-Dimethylaminophenyl)trimethoxysilane
In a 200 ml two-necked flask equipped with a dropping funnel were put 1.01 g (41.5 mmol) of magnesium, 50 ml of tetrahydrofuran (THF), and a small amount of iodine in a nitrogen stream, and a solution of 8.32 g (41.6 mmol) of p-bromo-N,N-dimethylaniline in 50 ml of THF was added thereto dropwise at room temperature over a 40-minute period while stirring. After the addition, the mixture was stirred at room temperature for 75 minutes, and a solution of 6.40 g (42.0 mmol) of tetramethoxysilane in 60 ml of THF was further added thereto, followed by stirring at room temperature overnight. The solvent was removed under reduced pressure, and the residue was suspended in 100 ml of toluene and filtered. The filtrate was concentrated under reduced pressure to obtain the title compound in a yield of 75%.

reactant | magnesium | 41.5 mmol, 1.01 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromo-N,N-dimethylaniline | 41.6 mmol, 8.32 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | tetramethoxysilane | 42.0 mmol, 6.40 g | CO[Si](OC)(OC)OC | C4H12O4Si
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (p-N,N-Dimethylaminophenyl)trimethoxysilane | yield of 75% | CN(C)C1=CC=C(C=C1)[Si](OC)(OC)OC | C11H19NO3Si
